US07592477B2
Step a) Formation of N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]-N-[4-(trifluoromethyl)-benzyl]amine
The same procedure as employed in the preparation of Example 223 (step b) but using 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 4-(trifluoromethyl)benzylamine gave the title compound as a colorless oil (49%). M+(LC/MS(ESI)): 446.4.

reactant | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]-N-[4-(trifluoromethyl)-benzyl]amine | 49% | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(CNCC2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H30F3N3O
